US06313132B1
33.1 2-(3,5-Dimethyl-4-hydroxyphenylazo)benzophenone
A slurry of ice (500 mL), hydrochloric acid (16.8 mL, 202 mmol, conc.), 2-aminobenzophenone (20.00 g, 101 mmol) and NaNO2 (9.0 g, 131 mmol) were added to a stirred solution of 2,6-dimethylphenol (18.40 g, 151 mmol) and sodium hydroxide (16.20 g, 404 mmol) in ice-cold water (100 mL). After 20 minutes the mixture was extracted with diethyl ether. The organic phase was washed with hydrochloric acid (6 M), NaHCO3(aq), dried (MgSO4) and the solvent evaporated. The crude residue was chromatographed on silica (toluene) and pure fractions were pooled and evaporated to give a red oil. The oil was crystallised in hexane/toluene to give 7.73 g (23%).

reactant | hydrochloric acid | 202 mmol, 16.8 mL | Cl | ClH
reactant | 2-aminobenzophenone | 101 mmol, 20.00 g | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
reactant | NaNO2 | 131 mmol, 9.0 g | N(=O)[O-].[Na+]
reactant | 2,6-dimethylphenol | 151 mmol, 18.40 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | sodium hydroxide | 404 mmol, 16.20 g | [OH-].[Na+]
product | 2-(3,5-Dimethyl-4-hydroxyphenylazo)benzophenone | CC=1C=C(C=C(C1O)C)N=NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C21H18N2O2
